US04278673
(i) Ethyl-3-isovaleramido-2-oxo-butyrate
Ethyl oxalyl chloride (212 g) was added dropwise with stirring to a solution of isovalerylalanine (136 g) and pyridine (186.5 g) in anhydrous tetrahydrofuran (500 ml) at a rate sufficient to initiate refluxing. The reaction mixture was stirred and heated at reflux for 5 hours. The cooled reaction mixture was treated with water (1000 ml) and extracted with ethyl acetate (4×400 ml). The combined organic extracts were washed with water (3×200 ml) and dried (anhydrous sodium sulphate). Removal of solvent provided a yellow syrup which was evaporated with benzene (2×200 ml) to yield the isomeric enol esters of the title compound.

reactant | isovalerylalanine | 136 g | C(CC(C)C)(=O)N[C@@H](C)C(=O)O | C8H15NO3
reactant | pyridine | 186.5 g | N1=CC=CC=C1 | C5H5N
reactant | water | 1000 ml | O | H2O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | Ethyl-3-isovaleramido-2-oxo-butyrate | C(C)OC(C(C(C)NC(CC(C)C)=O)=O)=O | C11H19NO4
